US07989461B2
Preparation of 1-chloro-6-methyl-5-nitroisoquinoline
6-Methyl-5-nitroisoquinolin-1(2H)-one-N-oxide (3.1 g, 15.2 mmol) was taken up in chloroform (100 mL) and phosphorus oxychloride (7 mL, 80 mmol) was added dropwise to the reaction. The mixture was then heated to 70° C. After 3 h, the reaction was cooled and the volatiles removed in vacuo. Residual phosphorus oxychloride was azeotroped with toluene. The residue was then dissolved in chloroform and washed with cold water, saturated NaHCO3 and brine. The organic layer was then dried with sodium sulfate and purified by column chromatography using 10 to 40% ethyl acetate in hexanes as an eluent. The title compound was obtained an off-white solid (3.4 g, 96%). MS (M+H)+ 223.

reactant | 6-Methyl-5-nitroisoquinolin-1(2H)-one-N-oxide | 15.2 mmol, 3.1 g | CC=1C(=C2C=C[NH+](C(C2=CC1)=O)[O-])[N+](=O)[O-] | C10H8N2O4
reactant | phosphorus oxychloride | 80 mmol, 7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-6-methyl-5-nitroisoquinoline | ClC1=NC=CC2=C(C(=CC=C12)C)[N+](=O)[O-] | C10H7ClN2O2
